Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Veno___
 
Attending: ___.
 
Chief Complaint:
ESRD here for kidney transplant
 
Major Surgical or Invasive Procedure:
___ deceased donor renal transplant

 
History of Present Illness:
Ms. ___ is a ___ y/o female with a history of ESRD ___ HTN now
on hemodialysis who presents for a deceased donor renal
transplant.She is currently dialyzing through a left forearm AV
fistula (___) which is currently functioning well(her 
last
session was AM on ___. This was notable a systolic of >190
in spite of antihypertensives. She was previously on peritoneal
dialysis(twice from ___ and did not experience any
complications from this. At baseline she makes less than once 
cup
of urine daily and voids 2 times per day.

Currently, the patient reports that she feels well. She
denies any other recent changes to her health. In particular,
she denies fevers, chills, sweats, malaise, fatigue, recent 
blood
transfusions, recent illness or hospitalizations or recent sick
contacts. She denies dyspnea at rest or with exertion,chest 
pain,
orthopnea,paroxysmal nocturnal dyspnea, abdominal pain, nausea,
vomiting, hematemesis, hematochezia, or melena. She denies
dizziness,orthostasis, weakness, exercise intolerance, or 
wheeze.

ROS:
10 point review of systems was performed. Pertinent positive and
negative findings are discussed in the HPI. 
 
Past Medical History:
- Chronic hypertension - Since age ___. Been worked up at ___ 
("kidneys,  MRI") without secondary causes found per PCP's note
- Asthma - no intubations
.
Surgical History: hernia repair as infant
                  Laft arm AV fistula

 
Social History:
___
Family History:
-Mother:  died during C-section when pt was age ___
-Maternal grandmothers, uncles, aunts with HTN
-___ GM, aunt with brain cancer
-Maternal G aunt and mat GM with breast ca
-Father: overall healthy, no known medical history
 
Physical Exam:
Exam on Admission:
VITALS: ___ 1159 Temp: 97.7 BP: 190/123 R Sitting HR: 90 
RR:
18 O2 sat: 99% O2 delivery: Ra 
GENERAL APPEARANCE: lying in bed, appears comfortable and in 
NAD.
CV: RRR
RESP: No respiratory distress or accessory muscle usage. Lungs
clear to auscultation in all lung fields posteriorly.
GI: Bowel sounds present throughout. Abdomen is soft, NT, 
notable
for previous PD cath scars.
EXTREMITIES: well-perfused, acyanotic. No pitting edema
noted in bilateral lower extremities. Good R femoral pulse
NEURO: A&Ox4. Moves all extremities appropriately. Sensation
grossly intact. 
PSYCH: Very anxious, but otherwise well.
.
Exam at Discharge:
24 HR Data (last updated ___ @ 2352)
    Temp: 98.1 (Tm 98.2), BP: 138/83 (124-184/76-115), HR: 68
(62-75), RR: 18 (___), O2 sat: 100% (97-100), O2 delivery: Ra,
Wt: 172.3 lb/78.16 kg

Fluid Balance (last updated ___ @ ___)
  Last 8 hours  Total cumulative -1310ml
    IN: Total 240ml, PO Amt 240ml
    OUT:  Total 1550ml, Urine Amt 1550ml
  Last 24 hours  Total cumulative -1890ml
    IN: Total 715ml, PO Amt 660ml, IV Amt Infused 55ml
    OUT:  Total 2605ml, Urine Amt 2605ml

GENERAL: [x ]NAD  [x ]A/O x 3  
CARDIAC: [x ]RRR  
LUNGS:   [x ]no respiratory distress  
ABDOMEN: [x ]soft  [x ]appropriately tender [ x]nondistended  [ 
x]no rebound/guarding  
WOUND: [x ]CD&I  [x ]no erythema/induration 
EXTREMITIES: [ x]no CCE  Fistula + Bruit/thrill

 
Pertinent Results:
Labs on Admission: ___
WBC-7.3 RBC-3.86* Hgb-11.9 Hct-35.8 MCV-93 MCH-30.8 MCHC-33.2 
RDW-13.2 RDWSD-44.5 Plt ___ PTT-33.3 ___
Glucose-89 UreaN-13 Creat-3.2*# Na-137 K-4.5 Cl-97 HCO3-26 
AnGap-14
ALT-8 AST-11 AlkPhos-81 TotBili-0.7
Albumin-4.9 Calcium-9.3 Phos-3.0 Mg-2.0
TSH-2.9
PTH-161*
HBsAg-NEG HBsAb-POS HBcAb-NEG IgM HBc-NEG
HCG-<5
HIV Ab-NEG
HCV Ab-NEG
HBV VL-NOT DETECT HCV VL-NOT DETECT
.
Labs at Discharge: ___
WBC-8.9 RBC-2.71* Hgb-8.6* Hct-24.9* MCV-92 MCH-31.7 MCHC-34.5 
RDW-13.8 RDWSD-46.1 Plt ___
Glucose-110* UreaN-28* Creat-1.4* Na-138 K-4.2 Cl-103 HCO3-21* 
AnGap-14
Calcium-8.8 Phos-2.6* Mg-1.5*
tacroFK-8.___ hx ESRD ___ HTN on HD (___) who now presents for 
deceased donor kidney transplant.Patient was taken to the OR 
with Dr ___.
There were no intra-op complications reported.
.
Induction immunosuppression was standard solumedrol to 
prednisone complete at day 5 taper. MMF 1 gram BID which was 
well tolerated. Tacro started on the evening of POD 1. Tacro 
level slow to increase, so received thymo 100 mg x 4 doses. She 
did not require hemodialysis.
.
Hypertension was difficult to control initially, multiple 
medication changes and adjustments were required, and then 
control was much better. Patient has been requested to check 
several times daily at home and the outpatient coordinator has 
been made aware to check in with patient. Occassionally the BP 
has decreased ionto the 120's systolic and she has felt 
lightheaded and weak.
Weight was still up from admission by about 5 kg, but minimal 
edema noted.
.
Creatinine was 1.4 on day of discharge, Urine output was greater 
than 2 liters daily.
The incision is clean dry and intact, mild sensitivity but no 
evidence of hematoma in the lower right quadrant.
.
She is tolerating a regular diet, ambulatory without assist and 
had return of bowel function.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO HS 
2. Calcitriol 0.25 mcg PO 3X/WEEK (___) 
3. CloNIDine 0.1 mg PO DAILY 
4. Eplerenone 25 mg PO DAILY 
5. etelcalcetide 5 mg/mL injection 3X/WEEK given at HD 
6. Labetalol 600 mg PO TID 
7. Lisinopril 40 mg PO DAILY 
8. Omeprazole 40 mg PO DAILY 
9. Prochlorperazine 10 mg PO Q8H:PRN Nausea/Vomiting - First 
Line 
10. Spironolactone 25 mg PO DAILY 
11. Ulipristal 30 mg PO DAILY:PRN emergency contraception 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 
Maximum 6 of the 500 mg tablets daily  
2.  CARVedilol 25 mg PO BID  
3.  Ciprofloxacin HCl 500 mg PO Q24H Duration: 1 Dose 
take 1 hour prior to ureteral stent removal by urologist  
4.  Docusate Sodium 100 mg PO DAILY:PRN Constipation - First 
Line  
5.  Mycophenolate Mofetil 1000 mg PO BID  
6.  NIFEdipine (Extended Release) 60 mg PO DAILY 
Do not take until ___  
7.  Nystatin Oral Suspension 5 mL PO QID  
8.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
No driving if taking this medication, taper as tolerated  
9.  Senna 8.6 mg PO QHS:PRN Constipation - First Line  
10.  Sodium Polystyrene Sulfonate 15 gm PO DAILY:PRN elevated 
potassium 
take only when instructed by the transplant coordinator  
11.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  
12.  Tacrolimus 9 mg PO Q12H  
13.  ValGANCIclovir 900 mg PO DAILY  
14.  CloNIDine 0.1 mg PO BID  
15.  Omeprazole 40 mg PO BID  
16.  Prochlorperazine 10 mg PO Q8H:PRN Nausea/Vomiting - First 
Line  
17. HELD- Calcitriol 0.25 mcg PO 3X/WEEK (___)  This 
medication was held. Do not restart Calcitriol until Instructed 
by transplant clinic
18. HELD- Ulipristal 30 mg PO DAILY:PRN emergency contraception  
This medication was held. Do not restart Ulipristal until 
Instructed by transplant clinic

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ESRD now s/p deceased donor kidney transplant
HTN

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please call the transplant clinic at ___ for fever of 
101, chills, nausea, vomiting, diarrhea, constipation, inability 
to tolerate food, fluids or medications, yellowing of skin or 
eyes, increased abdominal pain, incisional redness, drainage or 
bleeding, dizziness or weakness, decreased urine output or dark, 
cloudy urine, swelling of abdomen or ankles, weight gain of 3 
pounds, pain/burning/urgency with urination, or any other 
concerning symptoms.
.
Bring your pill box and list of current medications to every 
clinic visit.
.
***You will need to have labs drawn on ___, then twice 
weekly as requested by the transplant coordinator, with results 
to the transplant clinic (Fax ___ . CBC, Chem 10, AST, 
 T Bili, Trough Tacro level, Urinalysis
.
 On the days you have your labs drawn, do not take your 
Tacrolimus until your labs are drawn. Bring your Tacro with you 
so you may take your medication as soon as your labwork has been 
drawn.
.
Please measure and record your urine output in the urinal 
provided until you are instructed by the transplant clinic that 
you can stop. Bring the record with you to your transplant 
clinic follow up visits
.
Check your blood pressure twice a day. Report values greater 
than 180 or less than 110 to the transplant clinic. 
You have several new medications and adjusted doses.
.
Follow your medication card, keep it updated with any dosage 
changes, and always bring your card with you to any clinic or 
hospital visits.
.
You may shower. Allow the water to run over your incision and 
pat area dry. No rubbing, no lotions or powder near the 
incision. You may leave the incision open to the air. The 
staples are removed approximately 3 weeks following your 
transplant.
.
No tub baths or swimming
.
No driving if taking narcotic pain medications
.
Avoid direct sun exposure. Wear protective clothing and a hat, 
and always wear sunscreen with SPF 30 or higher when you go 
outdoors.
.
Drink enough fluids to keep your urine light in color. Your 
appetite will return with time. Eat small frequent meals, and 
you may supplement with things like carnation instant breakfast 
or Ensure.
.
Do not increase, decrease, stop or start medications without 
consultation with the transplant clinic at ___. There 
are significant drug interactions with anti-rejection 
medications which must be considered in medication management 
following transplant.
.
Consult transplant binder, and there is always someone on call 
at the transplant clinic with any questions that may arise

 
Followup Instructions:
___